US07799787B2
Step 2: 4-Phenyl-N-(6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridin-3-yl)butanamide
A mixture of 6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridin-3-amine (225 mg, 0.7 mmol), 4-phenylbutyric acid (131 mg, 0.8 mmol), HATU (380 mg, 1.5 mmol) and DIPEA (465 μL, 2.7 mmol) in DMF (10 mL) was stirred at room temperature for 4 h. After dilution with water, the mixture was extracted with EtOAc. The EtOAc extract was washed with diluted brine, dried (Na2SO4) and concentrated. CombiFlash chromatography (10 g, 40-70% EtOAc in hexanes in 20 min, 20 mL/min, 15 mL/fraction) gave a light brown gum which solidified on standing. Swishing with hexanes-Et2O (1:1) gave the title compound as a white powder.

reactant | 6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridin-3-amine | 0.7 mmol, 225 mg | FC(C1=C(OC2CCN(CC2)C2=CC=C(C=N2)N)C=CC=C1)(F)F | C17H18F3N3O
reactant | 4-phenylbutyric acid | 0.8 mmol, 131 mg | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | HATU | 1.5 mmol, 380 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 2.7 mmol, 465 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-Phenyl-N-(6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridin-3-yl)butanamide | C1(=CC=CC=C1)CCCC(=O)NC=1C=NC(=CC1)N1CCC(CC1)OC1=C(C=CC=C1)C(F)(F)F | C27H28F3N3O2
